### PR TITLE
[Merged by Bors] - feat: a bilinear form on a module induces a bilinear form in its exterior powers

### PR DESCRIPTION
**Pull request by kirill-kondrashov**
Moreover the induced bilinear form is bijective when the original one is.

---

Follows [#maths > Hodge star operator @ 💬](https://leanprover.zulipchat.com/#narrow/channel/116395-maths/topic/Hodge.20star.20operator/near/615374631)

GPT 5.6 Luna Max was used to assist with initial brainstorming/filling in the `sorry` blocks into a manually written snippet from Oliver Nash in the Zulip thread above, and replying to the questions on the Mathlib API (it's my first PR).

The output was reviewed manually and heavily rewritten/refactored.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by kirill-kondrashov** [comment]
LLM-generated

File: Mathlib/LinearAlgebra/ExteriorPower/BilinForm.lean [hunk 1]
```diff
@@ -0,0 +1,241 @@
...
+## Definitions
+
+* `exteriorPower.BilinForm`: the bilinear form induced on an exterior power.
+
+## Theorems
+
+* `exteriorPower.bilinForm_nondegenerate`: nondegeneracy is preserved over a field.
+-/
+
+@[expose] public section
```
Comment (robin-carlier) [inline Mathlib/LinearAlgebra/ExteriorPower/BilinForm.lean]: I see many `private` lemma in the file. You can remove this (making everything `private` by default) and add `public` (and maybe `@[expose]`) only on the declarations that you intend to export.

Comment (kirill-kondrashov) [reply Mathlib/LinearAlgebra/ExteriorPower/BilinForm.lean]: That's a good point, changed that.

File: Mathlib/LinearAlgebra/ExteriorPower/Basis.lean [hunk 2]
```diff
@@ -122,6 +123,15 @@ lemma basis_coord {I : Type*} [LinearOrder I] (b : Basis I R M) (s : powersetCar
...
       Finsupp.single_eq_of_ne hst]
 
+/-- If `b` is a finite basis of `M`, then `pairingDual` maps the exterior power of its dual basis
+to the dual basis of the exterior power of `b`. -/
+lemma pairingDual_apply_dualBasis_exteriorPower {I : Type*} [Finite I] [LinearOrder I]
+    (b : Basis I R M) (k : ℕ) (s : powersetCard I k) :
+    pairingDual R M k (b.dualBasis.exteriorPower k s) =
+      (b.exteriorPower k).dualBasis s := by
+  rw [Basis.coe_dualBasis, basis_coord]
+  simp [basis_apply, ιMulti_family, ιMultiDual, Basis.coe_dualBasis]
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/ExteriorPower/Basis.lean]: I have style nitpicks as shown below but more importantly, I suggest you move this lemma lower down (e.g., just below the lemma `basis_repr`) since it currently interrupts a group of lemma with very similar purpose and assumptions:
```suggestion
lemma pairingDual_apply_dualBasis_exteriorPower {I : Type*} [Finite I] [LinearOrder I]
    (b : Basis I R M) (k : ℕ) (s : powersetCard I k) :
    pairingDual R M k (b.dualBasis.exteriorPower k s) = (b.exteriorPower k).dualBasis s := by
  simp [basis_coord, ιMultiDual]
```

File: Mathlib/LinearAlgebra/ExteriorPower/BilinForm.lean [hunk 3]
```diff
@@ -0,0 +1,232 @@
...
+  have hpairingDual_eq_constr : pairingDual R M k = e.constr R d := by
+    -- It suffices to compare the two maps on the basis `e`.
+    apply e.ext
+    intro s
+    -- On the basis vector indexed by `s`, both maps give the corresponding vector `d s`.
+    simp only [Basis.constr_basis]
+    simpa [e, d] using pairingDual_apply_dualBasis_exteriorPower R b k s
+  -- The basis map is injective because `d` is linearly independent.
+  rw [hpairingDual_eq_constr]
+  exact e.injective_constr_of_linearIndependent d.linearIndependent
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/ExteriorPower/BilinForm.lean]: I have comments here as follows:

1. In fact we can establish bijectivity rather than mere injectivity so let's do that.
2. The goal does not need to mention the basis so we should just assume finite, free instead.

Overall I therefore suggest:
```suggestion
lemma bijective_pairingDual [Nontrivial R] [Module.Finite R M] [Module.Free R M] (k : ℕ) :
    Bijective (pairingDual R M k) := by
  classical
  -- 1. Choose a finite ordered basis of `M`.
  obtain ⟨I, b⟩ := Module.Free.exists_basis R M
  let : LinearOrder I := linearOrderOfSTO WellOrderingRel
  have : Finite I := Module.Finite.finite_basis b
  let e := b.dualBasis.exteriorPower k
  let d := (b.exteriorPower k).dualBasis
  -- Express `pairingDual` as the map sending the basis `e` to the basis `d`.
  have hpairingDual_eq_constr : pairingDual R M k = e.constr R d := by
    -- It suffices to compare the two maps on the basis `e`.
    apply e.ext
    intro s
    -- On the basis vector indexed by `s`, both maps give the corresponding vector `d s`.
    simp only [Basis.constr_basis]
    simpa [e, d] using pairingDual_apply_dualBasis_exteriorPower R b k s
  rw [hpairingDual_eq_constr]
  refine ⟨e.injective_constr_of_linearIndependent d.linearIndependent, ?_⟩
  rw [← LinearMap.range_eq_top, Basis.constr_range, d.span_eq]
```
In fact `Nontrivial R` should be unnecessary. What I would have hoped would work would be that we could drop the `[Nontrivial R]` assumption and then begin the proof with:
```lean
  nontriviality R
```
but either I'm confused or there are missing `Subsingleton` lemmas upstream. Maybe for this round of review we don't worry too much about this.

File: Mathlib/LinearAlgebra/ExteriorPower/BilinForm.lean [hunk 4]
```diff
@@ -0,0 +1,232 @@
...
+  ext v w
+  simp only [LinearMap.compAlternatingMap_apply, LinearMap.BilinForm.flip_apply]
+  rw [bilinForm_ιMulti_ιMulti C w v, bilinForm_ιMulti_ιMulti C.flip v w]
+  -- The second matrix is the transpose of the first one.
+  rw [← Matrix.det_transpose]
+  rfl
+
+section
+
+variable {R M : Type*} [Field R] [AddCommGroup M] [Module R M]
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/ExteriorPower/BilinForm.lean]: Let's try to work with more general coefficients:
```suggestion
variable {R M : Type*} [CommRing R] [AddCommGroup M] [Module R M]
```

File: Mathlib/LinearAlgebra/ExteriorPower/BilinForm.lean [hunk 5]
```diff
@@ -0,0 +1,232 @@
...
+    intro x hx
+    have hBilinForm_flip_x : exteriorPower.BilinForm k B.flip x = 0 := by
+      -- Rewrite the flip of the induced form using the flip identity.
+      rw [← bilinForm_flip (k := k) B]
+      exact hx
+    apply hB_flip_exteriorPower
+    apply hpairingDual
+    -- Rewrite the vanishing condition using the composition lemma.
+    simpa only [bilinForm_eq_pairingDual_comp_map (k := k) B.flip, LinearMap.comp_apply, map_zero]
+      using hBilinForm_flip_x
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/ExteriorPower/BilinForm.lean]: I think the natural result here is to deduce bijectivity from bijectivity.
```suggestion
public lemma bilinForm_nondegenerate[Module.Free R M] [Module.Finite R M] (k : ℕ)
    (B : LinearMap.BilinForm R M) (hB : Bijective B) :
    Bijective (exteriorPower.BilinForm k B) := by
  rw [bilinForm_eq_pairingDual_comp_map (k := k) B, LinearMap.coe_comp]
  refine (bijective_pairingDual k).comp ⟨?_, ?_⟩
  · exact exteriorPower.map_injective (LinearEquiv.ofBijective _ hB).symm (by ext; simp)
  · exact exteriorPower.map_surjective hB.surjective
```
Elsewhere in the API for `LinearMap.BilinForm` we should have lemmas connecting `LinearMap.BilinForm.Nondegenerate` with bijectivity (and this will be the natural place to make assumptions on the coefficients like already happens in [LinearMap.BilinForm.Nondegenerate.ofSeparatingLeft](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Matrix/BilinearForm.html#LinearMap.BilinForm.Nondegenerate.ofSeparatingLeft)).

**Review by ocfnash — COMMENTED** [review]
Thanks, I've left some initial remarks and can follow up once you've had a chance to respond. I'm very happy to see this PR!

**Comment by kirill-kondrashov** [comment]
> Thanks, I've left some initial remarks and can follow up once you've had a chance to respond. I'm very happy to see this PR!

Thank you so much for so swift and deep review comments :+1:  I didn't reply to each thread because I agree with every one of them, I've certainly learned something today. All pleasure is mine!

**Comment by kirill-kondrashov** [comment]
-awaiting-author

**Comment by kirill-kondrashov** [comment]
WIP

**Comment by kirill-kondrashov** [comment]
-WIP

**Comment by kirill-kondrashov** [comment]
WIP

**Comment by kirill-kondrashov** [comment]
-WIP

File: Mathlib/LinearAlgebra/ExteriorPower/BilinForm.lean [hunk 6]
```diff
@@ -0,0 +1,210 @@
...
+    let : Subsingleton R := hR
+    -- The source of `pairingDual` is subsingleton.
+    have : Subsingleton (⋀[R]^k (Module.Dual R M)) := Module.subsingleton R _
+    -- Its target is subsingleton as well.
+    have : Subsingleton (Module.Dual R (⋀[R]^k M)) := Module.subsingleton R _
+    -- Hence every map between these modules is injective and surjective, which is bijectivity.
+    exact ⟨Function.injective_of_subsingleton _, Function.surjective_to_subsingleton _⟩
+  · -- In the nontrivial case, use the finite basis argument below.
+    let : Nontrivial R := hR
+    classical
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/ExteriorPower/BilinForm.lean]: Let's add the following lemma way back [here](https://github.com/leanprover-community/mathlib4/blob/f682431588457e8d57b879b2f1a0517a03b44a0c/Mathlib/Logic/Function/Basic.lean#L602) in `Logic.Function.Basic`:
```lean
@[nontriviality] theorem bijective_of_subsingleton' [Nonempty α] [Subsingleton α] [Subsingleton β]
    (f : α → β) : Bijective f :=
  ⟨injective_of_subsingleton f, surjective_to_subsingleton f⟩
```
and then golf this to:
```suggestion
  rcases subsingleton_or_nontrivial R with hR | hR
  · have : Subsingleton (⋀[R]^k (Dual R M)) := Module.subsingleton R _
    exact bijective_of_subsingleton' _
  · classical
```

**Review by ocfnash — COMMENTED** [review]
This code is still shows very clear signs of its LLM origin. For example there are lemmas (like `bilinForm_flip`) which are now entirely unused, lines like `let : Nontrivial R := hR`, and many comments about rather trivial things.

The PR is looking good but it would help review if it were polished a bit more.

File: Mathlib/LinearAlgebra/ExteriorPower/Basis.lean (hunk 2 above)
Comment (ocfnash) [reply Mathlib/LinearAlgebra/ExteriorPower/Basis.lean]: Thanks for applying this suggestion but it looks like the lemma still needs to be moved as suggested.

**Comment by kirill-kondrashov** [comment]
> This code is still shows very clear signs of its LLM origin. For example there are lemmas (like `bilinForm_flip`) which are now entirely unused, lines like `let : Nontrivial R := hR`, and many comments about rather trivial things.
> 
> The PR is looking good but it would help review if it were polished a bit more.

Oh, that is a blunder indeed after applying the suggestions. I should have spent more time this round before marking it as ready. I'll put the PR to WIP for now, thanks for checking it!

**Comment by kirill-kondrashov** [comment]
WIP

File: Mathlib/LinearAlgebra/ExteriorPower/Basis.lean (hunk 2 above)
Comment (kirill-kondrashov) [reply Mathlib/LinearAlgebra/ExteriorPower/Basis.lean]: Oh yeah, I applied the suggestion but didn't move the lemma, thanks for spotting it.

File: Mathlib/Logic/Function/Basic.lean [hunk 7]
```diff
@@ -600,6 +600,10 @@ theorem surjective_to_subsingleton [na : Nonempty α] [Subsingleton β] (f : α
     Surjective f :=
   fun _ ↦ let ⟨a⟩ := na; ⟨a, Subsingleton.elim _ _⟩
 
+@[nontriviality] theorem bijective_of_subsingleton' [Nonempty α] [Subsingleton α] [Subsingleton β]
```
Comment (ocfnash) [inline Mathlib/Logic/Function/Basic.lean:603]: splice-bot merge

File: Mathlib/LinearAlgebra/ExteriorPower/Basis.lean [hunk 8]
```diff
@@ -143,6 +144,14 @@ lemma basis_repr {I : Type*} [LinearOrder I] (b : Basis I R M) (s : powersetCard
   ext t
   by_cases hst : s = t <;> simp [hst]
 
+/-- If `b` is a finite basis of `M`, then `pairingDual` maps the exterior power of its dual basis
+to the dual basis of the exterior power of `b`. -/
+lemma pairingDual_apply_dualBasis_exteriorPower {I : Type*} [Finite I] [LinearOrder I]
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/ExteriorPower/Basis.lean]: splice-bot merge

**Comment by kirill-kondrashov** [comment]
-WIP

**Comment by ocfnash** [comment]
Thanks again for this work @kirill-kondrashov .

Your lemma connecting the bilinear form on the exterior power to the construction using [exteriorPower.pairingDual](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/ExteriorPower/Pairing.html#exteriorPower.pairingDual) and [exteriorPower.map](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/ExteriorPower/Basic.html#exteriorPower.map) made me realise that this should just be the definition. So I implemented that change and then made quite a few small other improvements (to `variable` reuse, naming, lemma placement, doc strings, proofs, some preexisting tech debt, ...). The result is that I'm now happy with how things look but as I've contributed non-trivially here I'll have to ask another maintainer to take a final look, rather than sending it to master myself.

maintainer merge

**Review by ocfnash — APPROVED** [review]

**Comment by mattrobball** [comment]
bors merge

**Comment by kirill-kondrashov** [comment]
> Thanks again for this work @kirill-kondrashov .
> 
> Your lemma connecting the bilinear form on the exterior power to the construction using [exteriorPower.pairingDual](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/ExteriorPower/Pairing.html#exteriorPower.pairingDual) and [exteriorPower.map](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/ExteriorPower/Basic.html#exteriorPower.map) made me realise that this should just be the definition. So I implemented that change and then made quite a few small other improvements (to `variable` reuse, naming, lemma placement, doc strings, proofs, some preexisting tech debt, ...). The result is that I'm now happy with how things look but as I've contributed non-trivially here I'll have to ask another maintainer to take a final look, rather than sending it to master myself.
> 
> maintainer merge

Thank you very much @ocfnash ! I really enjoyed working on this PR.
